Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Lisinopril
 
Attending: ___.
 
Chief Complaint:
Right brachial occlusion 
 
Major Surgical or Invasive Procedure:
Right Brachial Embolectomy 

 
History of Present Illness:
___ w/ PMH s/f HTN, HLD, but no history of vascular surgery
presents with 4 hours of right hand pain at rest that she states
began after eating. She presented to the ED with c/f stroke like
Sx, and an EKG in the ED showed her in Afib. At bedside, Ms.
___ has a cold right hand with poor sensation and has
difficulty grasping. History is limited due to patient being a
poor historian. On exam, she does not have dopperable radial or
ulnar pulse, but has a palpable brachial pulse on the right. She
has intact pulses on the left side. Otherwise, Ms. ___ is
able to move her other extremities and has an underlying tremor.
She denies fevers, chills, nausea, vomiting, diarrhea,
constipation, and her main complaint is right hand pain at rest.
She has never had these symptoms before in her life. 

 
Past Medical History:
PMH:
CHRONIC OBSTRUCTIVE PULMONARY DISEASE                           
DEPRESSION                                                      
HYPERLIPIDEMIA                                                  
HYPERTENSION                                                    
IMPAIRED VISION                                                 
OSTEOARTHRITIS    
                                           
PSH:
CATARACT SURGERY                                      ___      
right eye left eye ___                                     
MYOMECTOMY                                            ___    
 
Social History:
___
Family History:
Family Hx:
Relative Status   Age Problem              Onset Comments       
Sister   ___     SCHIZOPHRENIA                             

Brother  ___                                               

Brother  ___                                               

Father   ___                                               

Mother   ___ ___         
 
Physical Exam:
On admission:

Physical Exam
 VS: HR 63  104/40  14  100% RA 
 Gen: Alert, oriented, in NAD
 HEENT: EOMI, no palpable LAD  
 CV: irregular irregular, no m/r/g
 Resp: CTAB, no inc WOB
 Abd: Soft, NT, ND. 
 Extrem: 
- RUE: palpable brachial pulse, no dopperable R radial or ulnar.
Poor grip strength. limited sensation. cool to touch. 
- LUE: palpable brachial, radial, and ulnar pulse. sensation and
grip strength intact. 
 Psyc: Appropriate mood/affect 

At  discharge:

Objective
Vitals: 24 HR Data (last updated ___ @ 859)
    Temp: 97.9 (Tm 99.4), BP: 153/57 (110-153/57-67), HR: 61
(61-71), RR: 18, O2 sat: 98% (94-98), O2 delivery: RA

GENERAL: [x]NAD  [x]A/O x 3  []intubated/sedated []abnormal
CV: [x]RRR  [] irregularly irregular []no MRG  []Nl S1S2
[]abnormal
PULM: [x]CTA b/l  [x]no respiratory distress  []abnormal
ABD: [x]soft  [x]Nontender  []appropriately tender 
[x]nondistended  []no rebound/guarding  []abnormal
WOUND: [x]CD&I  []no erythema/induration []abnormal
EXTREMITIES: [x]no CCE []abnormal
PULSES: RUE: P/P/P 

 
Pertinent Results:
On admission:
___ 04:00PM BLOOD WBC-8.9 RBC-4.02 Hgb-12.3 Hct-35.8 MCV-89 
MCH-30.6 MCHC-34.4 RDW-12.8 RDWSD-41.7 Plt ___
___ 04:00PM BLOOD ___ PTT-24.8* ___
___ 04:00PM BLOOD Glucose-230* UreaN-47* Creat-1.5* Na-135 
K-4.1 Cl-93* HCO3-24 AnGap-18
___ 05:57AM BLOOD Calcium-8.7 Phos-3.2 Mg-2.2
___ 04:24PM BLOOD Lactate-3.2* Creat-1.4*

At discharge: 

___ 05:57AM BLOOD WBC-7.8 RBC-3.91 Hgb-12.1 Hct-35.5 MCV-91 
MCH-30.9 MCHC-34.1 RDW-12.8 RDWSD-41.7 Plt ___
___ 05:57AM BLOOD Plt ___
___ 05:57AM BLOOD Glucose-86 UreaN-13 Creat-0.6 Na-142 
K-4.5 Cl-102 HCO3-26 AnGap-14
___ 05:57AM BLOOD Calcium-8.6 Phos-3.0 Mg-2.0
___ 10:16AM BLOOD TSH-4.1
 
Brief Hospital Course:
Ms. ___ was admitted on ___ ___ due to finding of right 
brachial thrombus, she was made NPO and underwent brachial 
embolectomy. She tolerated the procedure well and then was 
transferred to PACU where she was closely monitored overnight. 
Pulses on right arm were found to be palpable after surgery. 
Swelling on right arm decreased significantly postoperatively. 
On ___ Patient was transferred to the floor, were her diet was 
advanced to regular, patient was started on a heparin drip 
postoperatively and her PTT levels were checked q6h until 
remaining at goal. Vascular medicine was consulted and evaluated 
patient, an echocardiogram showed an EF of 65%-70%. They agreed 
with patient starting DOAC at discharge, plan is Apixaban 5mg 
BID for 30 days and then transition to 2.5 BID.
On ___ patient was evaluated by geriatrics who gave 
recommendations to prevent delirium and will follow up with 
patient in clinic in 3 weeks. They were also in agreement with 
starting DOAC and will monitor patient and adherence to 
medication and discuss risks and benefits with patient as an 
outpatient. Patient was evaluated by ___ and rehab was 
recommended due to patient still being unsteady and risk for 
falls if patient was discharged home. Patient was agreeable to 
rehab. 
On ___ patient was tolerating a regular diet, had strong 
pulses on Right upper extremity and was found ready for 
discharge. Patient was discharged to rehab, detailed instruction 
were having regarding wound care, discharge instructions. 
Patient will follow with Vascular Surgery and Geriatrics as an 
outpatient. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 10 mg PO QPM 
2. Diltiazem Extended-Release 180 mg PO BID 
3. Hydrochlorothiazide 12.5 mg PO DAILY 
4. Metoprolol Succinate XL 200 mg PO DAILY 
5. Aspirin 81 mg PO DAILY 
6. Vitamin D 800 UNIT PO DAILY 
7. Docusate Sodium 100 mg PO DAILY 
8. Loratadine 10 mg PO DAILY:PRN allergies  

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild/Fever  
2.  Apixaban 5 mg PO BID acute thrombus  Duration: 30 Days 
Please use 30 days of 5mg BID, after this transition to 2.5mf 
BID   
3.  Aspirin 81 mg PO DAILY  
4.  Atorvastatin 10 mg PO QPM  
5.  Diltiazem Extended-Release 180 mg PO BID  
6.  Docusate Sodium 100 mg PO DAILY  
7.  Hydrochlorothiazide 12.5 mg PO DAILY  
8.  Loratadine 10 mg PO DAILY:PRN allergies   
9.  Metoprolol Succinate XL 200 mg PO DAILY  
10.  Vitamin D 800 UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Afib w/ proximal R brachial occlusion 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was pleasure taking care of you at ___. Please follow these 
instructions to continue your recovery.

WHAT TO EXPECT: 
It is normal to have slight swelling of the effected arm:
• Elevate your arm above the level of your heart with pillows 
every ___ hours throughout the day and at night
• It is normal to feel tired and have a decreased appetite, your 
appetite will return with time 
• Drink plenty of fluids and eat small frequent meals
• It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing
• To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication
What activities you can and cannot do:
• You may shower (let the soapy water run over the arm incision, 
rinse and pat dry)
• Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing or 
band aid over the area that is draining, as needed
• No heavy lifting, pushing or pulling (greater than 5 lbs) for 
1 week (to allow arm incision to heal)
• After 1 week, you may resume sexual activity
• After 1 week, gradually increase your activities and distance 
walked as you can tolerate
• No driving until you are no longer taking pain medications

MEDICATION:
• Take Aspirin 81mg (enteric coated) once daily 
• Continue all other medications you were taking before surgery, 
unless otherwise directed
• You will start anticoagulation with Apixaban (Eliquis) when 
you are discharged 
• You make take Tylenol or prescribed pain medications for any 
post procedure pain or discomfort

CALL THE OFFICE FOR:  ___
• Numbness, coldness or pain in the effected extremity 
• Temperature greater than 101.5F for 24 hours
• New or increased drainage from incision or white, yellow or 
green drainage from incisions
• Bleeding from incision site

SUDDEN, SEVERE BLEEDING OR SWELLING in the effected arm
• Sit down and have someone apply firm pressure to area for 10 
minutes. If bleeding stops, call vascular office ___. 
If bleeding does not stop, call ___ for transfer to closest 
Emergency Room. 

 
Followup Instructions:
___